US08440658B2
To a solution of (S)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-6-(2-hydroxyethyl)-1,3-oxazinan-2-one (220 mg, 0.68 mmol) and triethylamine (206 mg, 2.04 mmol) in CH2Cl2 (5 mL) was added methanesulfonyl chloride (233 mg, 2.04 mmol) at 0° C., and the reaction mixture was stirred at rt till the reaction was over. The reaction was quenched with H2O. The mixture was extracted with EtOAc, and the organic phase was washed with brine, dried over Na2SO4, filtered and concentrated to give crude 2-((S)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-2-oxo-1,3-oxazinan-6-yl)ethyl methanesulfonate (280 mg, crude), which was used for the next step without further purification.

reactant | (S)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-6-(2-hydroxyethyl)-1,3-oxazinan-2-one | 0.68 mmol, 220 mg | CC([C@H](C)N1C(O[C@@](CC1)(CCO)C1=CC=C(C=C1)F)=O)(C)C | C18H26FNO3
reactant | triethylamine | 2.04 mmol, 206 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.04 mmol, 233 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-((S)-3-((S)-3,3-dimethylbutan-2-yl)-6-(4-fluorophenyl)-2-oxo-1,3-oxazinan-6-yl)ethyl methanesulfonate | 280 mg | CS(=O)(=O)OCC[C@@]1(CCN(C(O1)=O)[C@@H](C)C(C)(C)C)C1=CC=C(C=C1)F | C19H28FNO5S
